US08802713B2
0.7 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole was dissolved in 5 mL of dimethylformamide, and under cooling with ice, the solution was dropwise added to a suspension having 50 mg of sodium hydride suspended in 10 mL of dimethylformamide, and after completion of the dropwise addition, stirring was carried out at room temperature for 30 minutes. The reaction solution was cooled with ice again, and 0.15 g of 1-bromo-2-propyne was added, followed by stirring at room temperature for 1 hour. Then, the reaction mixture was poured into water, extraction with ethyl acetate was carried out, and after washing with water, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was dissolved in 20 mL of ethanol, and 20 mL of a 35mass % hydrochloric acid aqueous solution was added, followed by stirring under reflux with heating for 2 hours. The reaction mixture was poured into water, extraction with ethyl acetate was carried out, and after washing with water, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 0.3 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(2-propynylamino)-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole | 0.7 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F | C19H13F14N3O3S
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 1-bromo-2-propyne | 0.15 g | BrCC#C | C3H3Br
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(2-propynylamino)-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole | 0.3 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1NCC#C)OC(C(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F | C20H13F14N3O2S
